US05183820
6-Fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one
A stirred solution of 4-[(6-fluoro-2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido [4,3-b]indol-2-yl)methyl]-N,N,5-trimethyl-1H-imidazole-1-sulphonamide (92 mg) in absolute ethanol (5 ml) was treated with 2N hydrochloric acid (20 ml) and stirred under nitrogen at 100°-110° for 6 h, and then cooled. 2N Sodium hydroxide (60 ml) was added, and the mixture was extracted with ethyl acetate (2×75 ml). The combined, dried organic extracts were concentrated in vacuo to give a solid (71 mg) which was purified by FCC eluting with System A (100:8:1) to give the title compound (57 mg), m.p. 233°-234°.

reactant | 4-[(6-fluoro-2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido [4,3-b]indol-2-yl)methyl]-N,N,5-trimethyl-1H-imidazole-1-sulphonamide | 92 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CN(C3C)S(=O)(=O)N(C)C | C19H22FN5O3S
reactant | hydrochloric acid | 2N, 20 ml | Cl | ClH
reactant | Sodium hydroxide | 2N, 60 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-Fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 71 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CNC3C | C17H17FN4O
